US07053122B2
2-(tert-Butoxy carbonylamino-methyl)-3-bromo-benzoic acid
To a stirred solution of 4-bromo-1-oxo-1,3-dihydro-isoindole-2-carboxylic acid tert butyl ester (0.206 g, 0.66 mmol) in tetrahydrofuran (10 ml) was added dropwise a solution of aq. lithium hydroxide (1M, 2 ml, 1.98 mmol) and the mixture stirred at room temperature under nitrogen for 18 hours. The mixture was diluted with diethyl ether (30 ml) and washed with 1M HCl (10 ml). The aqueous layer was extracted with diethyl ether (2×20 ml) and the combined organics dried over magnesium sulfate, filtered and the solvent removed by evaporation under reduced pressure to give the title compound (0.188 g, 86%) as a white waxy solid.

reactant | 4-bromo-1-oxo-1,3-dihydro-isoindole-2-carboxylic acid tert butyl ester | 0.66 mmol, 0.206 g | C(C)(C)(C)OC(=O)N1C(C2=CC=CC(=C2C1)Br)=O | C13H14BrNO3
reactant | lithium hydroxide | 1.98 mmol, 1M, 2 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(tert-Butoxy carbonylamino-methyl)-3-bromo-benzoic acid | 0.188 g, 86% | C(C)(C)(C)OC(=O)NCC1=C(C(=O)O)C=CC=C1Br | C13H16BrNO4
